US08044068B2
To a mixture of (S)-6-methoxy-4-methyl-N-(pyrrolidin-3-yl)quinolin-2-amine (0.50 g), 1-(4-chlorophenyl)-1-cyclobutane carboxylic acid (0.41 g), and DMF (6 mL) were added HOBt (0.39 g) and EDC.HCl (0.56 g), and the mixture was stirred at room temperature for 12 h. The reaction mixture was diluted with ethyl acetate and water, followed by addition of a saturated sodium hydrogencarbonate solution to extract the mixture. The organic layer was dried with anhydrous magnesium sulfate, then the desiccant was removed by filtration, the filtrate was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (silica gel, chloroform/methanol, and NH silica gel, ethyl acetate) to obtain colorless amorphous (S)-(1-(4-chlorophenyl)cyclobutyl)-(3-(6-methoxy-4-methylquinolin-2-ylamino)pyrrolidin-1-yl)methanone (0.67 g).

reactant | (S)-6-methoxy-4-methyl-N-(pyrrolidin-3-yl)quinolin-2-amine | 0.50 g | COC=1C=C2C(=CC(=NC2=CC1)N[C@@H]1CNCC1)C | C15H19N3O
reactant | 1-(4-chlorophenyl)-1-cyclobutane carboxylic acid | 0.41 g | ClC1=CC=C(C=C1)C1(CCC1)C(=O)O | C11H11ClO2
reactant | HOBt | 0.39 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC.HCl | 0.56 g | CCN=C=NCCCN(C)C.Cl
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
product | (S)-(1-(4-chlorophenyl)cyclobutyl)-(3-(6-methoxy-4-methylquinolin-2-ylamino)pyrrolidin-1-yl)methanone | 0.67 g | ClC1=CC=C(C=C1)C1(CCC1)C(=O)N1C[C@H](CC1)NC1=NC2=CC=C(C=C2C(=C1)C)OC | C26H28ClN3O2
